US08030334B2
Morpholine-4-sulfonic acid 5-bromo-pyridin-3-yl ester and N-methyl-indoleboronic acid are processed according to the method described in Example 100 to give morpholine-4-sulfonic acid 5-(1-methyl-1H-indol-2-yl)-pyridin-3-yl ester. MS (ESI) m/z 374.1 (M+H)+

reactant | Morpholine-4-sulfonic acid 5-bromo-pyridin-3-yl ester | BrC=1C=C(C=NC1)OS(=O)(=O)N1CCOCC1 | C9H11BrN2O4S
reactant | N-methyl-indoleboronic acid | CN1C(=CC2=CC=CC=C12)B(O)O | C9H10BNO2
product | morpholine-4-sulfonic acid 5-(1-methyl-1H-indol-2-yl)-pyridin-3-yl ester | CN1C(=CC2=CC=CC=C12)C=1C=C(C=NC1)OS(=O)(=O)N1CCOCC1 | C18H19N3O4S
